US07842688B2
b) tert-Butyl 3-(4-chloro-3-hydroxybenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]-phenyl}piperidine-1-carboxylate
The solution of 1.53 g of tert-butyl 3-(3-allyloxy-4-chlorobenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate in 15 ml of tetrahydrofuran is admixed with stirring successively with 0.018 g of bis(triphenylphosphine)palladium(II) acetate and 0.053 g of lithium borohydride. The reaction mixture is stirred at room temperature over 16 hours, subsequently poured onto saturated aqueous sodium hydrogencarbonate solution and extracted with tert-butyl methyl ether (2×100 ml). The organic phases are washed with water (100 ml) and brine (100 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a slightly yellowish oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.45 (1:1 EtOAc-heptane); Rt=5.88.

reactant | tert-butyl 3-(3-allyloxy-4-chlorobenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 1.53 g | C(C=C)OC=1C=C(COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=CC1Cl | C37H46ClNO7
reactant | lithium borohydride | 0.053 g | [BH4-].[Li+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
catalyst | bis(triphenylphosphine)palladium(II) acetate | 0.018 g | CC(=O)[O-].CC(=O)[O-].C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd+2]
product | tert-Butyl 3-(4-chloro-3-hydroxybenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]-phenyl}piperidine-1-carboxylate | ClC1=C(C=C(COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=C1)O | C34H42ClNO7
